US09328112B2
2-cyano-2-(4-oxocyclohexylidene)acetic acid
A solution of 1,4-dioxaspiro[4.5]decan-8-one (7.00 g, 44.8 mmol), tert-butyl 2-cyanoacetate (6.96 g, 49.3 mmol), ammonium acetate (0.28 g) and acetic acid (1.4 mL) in toluene (90 ml) was refluxed using Dean-Stark water separator to isolate water formed for 48 hours. The reaction mixture was washed twice with water, dried over Na2SO4, filtered, and concentrated in vacuo. To the crude material was added 140 ml of a 2% aqueous sulfuric acid solution and the mixture was refluxed for 1 hour. The reaction mixture was then cooled to room temperature and filtered to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ 2.36-2.55 (m, 4H), 3.04 (dd, J=7.6, 5.8 Hz, 2H), 3.30 (d, J=13.6 Hz, 2H).

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 44.8 mmol, 7.00 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | tert-butyl 2-cyanoacetate | 49.3 mmol, 6.96 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | ammonium acetate | 0.28 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-cyano-2-(4-oxocyclohexylidene)acetic acid | C(#N)C(C(=O)O)=C1CCC(CC1)=O | C9H9NO3
